US06399627B1
To a solution of (2E)-N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl]-3-(3-cyanophenyl)-4,4,4-trifluorobut-2-enamide (90 mg, 0.19 mmol) in 10 ml 1:1 ethyl acetate:anhydrous methanol cooled to −78° C. was bubbled HCl gas until saturation was achieved. Reaction was placed in the refrigerator at 0° C. over the weekend. The reaction was then concentrated in vacuo and dried under hi vacuum. The dried methyl imidate residue was dissolved in 5 ml anhydrous methanol to which ammonium acetate (144 mg, 2 mmol) was added and the reaction heated to reflux for 2 hours. The reaction was concentrated then treated with 10 ml trifluoroacetic acid for 2 hrs, concentrated and purified on a 2×25 cm Vydac C18 HPLC column to give 3-((1E)-2-{N-[4-(2-sulfamoylphenyl)phenyl]carbamoyl}-1-(trifluoromethyl)vinyl)benzenecarboxamidine (57 mg, 47%) as a fluffy white powder after lyophilization. ES-MS (M+H+): 489.15

reactant | (2E)-N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl]-3-(3-cyanophenyl)-4,4,4-trifluorobut-2-enamide | 0.19 mmol, 90 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(\C=C(\C(F)(F)F)/C1=CC(=CC=C1)C#N)=O | C27H24F3N3O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium acetate | 2 mmol, 144 mg | C(C)(=O)[O-].[NH4+]
solvent | methanol | 5 ml | CO | CH4O
product | 3-((1E)-2-{N-[4-(2-sulfamoylphenyl)phenyl]carbamoyl}-1-(trifluoromethyl)vinyl)benzenecarboxamidine | 57 mg, 47% | S(N)(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(=O)/C=C(/C(F)(F)F)\C=1C=C(C=CC1)C(=N)N | C23H19F3N4O3S
